US06794403B2
6-Bromo-2-(3-fluoro-4-hydroxyphenyl)-1,3-benzoxazol-5-ol
The title compound was prepared in substantially the same manner as described in Example 16, from 4-bromo-2,5-dimethoxyaniline, and 3-fluoro-4-methoxybenzoic acid and was obtained as a white solid, m.p. 224-226° C.; MS m/e 322 (M−H)+.

reactant | 4-bromo-2,5-dimethoxyaniline | BrC1=CC(=C(N)C=C1OC)OC | C8H10BrNO2
reactant | 3-fluoro-4-methoxybenzoic acid | FC=1C=C(C(=O)O)C=CC1OC | C8H7FO3
product | 6-Bromo-2-(3-fluoro-4-hydroxyphenyl)-1,3-benzoxazol-5-ol | BrC1=CC2=C(N=C(O2)C2=CC(=C(C=C2)O)F)C=C1O | C13H7BrFNO3
